US06417192B1
A mixture of 2-(8-phenyloct-1-yl)thio-5-(2-methoxypyrid-4-ylmethyl)pyrimidin-4-one (0.40 g, 0.9 mmol), chlorotrimethylsilane (0.23 ml, 1.8 mmol) and sodium iodide (0.27 g, 1.8 mmol) in acetonitrile (30 ml) was heated at reflux for 6 hours. The solvent was evaporated, the residue taken up in dichloromethane, and washed with water and aqueous sodium thiosulphate. Evaporation of the solvent and trituration with ether gave 2-(8-phenyloct-1-yl)thio-5-(2-oxopyrid-4-ylmethyl)pyrimidin-4-one as a white solid (0.03 g). 1H-NMR (d6-DMSO) δ 1.3 (8H, m), 1.6 (4H, m), 2.55 (2H, t), 3.07 (2H, t), 6.07 (2H, m), 7.1-7.3 (6H, m), 7.77 (1H, s); MPt indeterminate.

reactant | 2-(8-phenyloct-1-yl)thio-5-(2-methoxypyrid-4-ylmethyl)pyrimidin-4-one | 0.9 mmol, 0.40 g | C1(=CC=CC=C1)CCCCCCCCSC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C25H31N3O2S
reactant | chlorotrimethylsilane | 1.8 mmol, 0.23 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 1.8 mmol, 0.27 g | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(8-phenyloct-1-yl)thio-5-(2-oxopyrid-4-ylmethyl)pyrimidin-4-one | 0.03 g | C1(=CC=CC=C1)CCCCCCCCSC1=NC=C(C(N1)=O)CC1=CC(NC=C1)=O | C24H29N3O2S
